US05977178
(2R)-3-(Benzo[b]thiophen-3-yl)-2-(tert-butoxycarbonyl-methylamino)propionic acid (2.00 g; 5.96 mmol) was dissolved in methylene chloride (10 mL). 1-Hydroxy-7-azabenzotriazole (0.81 g; 5.96 mmol) and N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (1.26 g; 6.56 mmol) were added. The reaction mixture was stirred for 15 min at room temperature. (2R)-N-Methyl-2-methylamino-3-phenylpropionamide (1.15 g; 5.96 mmol) was dissolved in methylene chloride (10 mL) and added. Diisopropylethylamine (1.02 mL; 5.96 mmol) were added. The reaction mixture was stirred for 48 hours. Methylene chloride (10 mL) was added. The reaction was washed with water (30 mL), an aqueous solution of sodium hydrogen sulfate (10%; 30 mL), an aqueous solution of sodium hydrogen carbonate (saturated; 30 mL) and dried (magnesium sulfate). The solvent was removed in vacuo and the residue was chromatographed on silica (3×30 cm) using ethyl acetate/methylene chloride (1:1) as eluent to afford 0.89 g of ((1R)-2-(benzo[b]thiophen-3-yl)-1-(methyl-((1R)-1-methylcarbamoyl-2-phenylethyl)carbamoyl)ethyl)methyl carbamic acid tert-butylester.

reactant | (2R)-3-(Benzo[b]thiophen-3-yl)-2-(tert-butoxycarbonyl-methylamino)propionic acid | 5.96 mmol, 2.00 g | S1C2=C(C(=C1)C[C@H](C(=O)O)N(C)C(=O)OC(C)(C)C)C=CC=C2 | C17H21NO4S
reactant | 1-Hydroxy-7-azabenzotriazole | 5.96 mmol, 0.81 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 6.56 mmol, 1.26 g | Cl.CN(CCCN=C=NCC)C
reactant | (2R)-N-Methyl-2-methylamino-3-phenylpropionamide | 5.96 mmol, 1.15 g | CNC([C@@H](CC1=CC=CC=C1)NC)=O | C11H16N2O
reactant | Diisopropylethylamine | 5.96 mmol, 1.02 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | ((1R)-2-(benzo[b]thiophen-3-yl)-1-(methyl-((1R)-1-methylcarbamoyl-2-phenylethyl)carbamoyl)ethyl)methyl carbamic acid tert-butylester | 0.89 g | C(C)(C)(C)OC(N(C)[C@H](CC=1C2=C(SC1)C=CC=C2)C(N([C@H](CC2=CC=CC=C2)C(NC)=O)C)=O)=O | C28H35N3O4S
